US08557982B2
e) Preparation of 2-(1-pyrolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (entry 38, Table 1)
This material was prepared in a similar manner as 2-(1,2,4-triazol-1-yl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (entry 43, Table 1), above, using pyrrole in place of 1,2,4-triazole as the nucleophile. 1H NMR (300 MHz, CDCl3) δ 8.47 (d, 1H, J=1.21 Hz), 7.75 (d, 1H, J=1.20 Hz), 7.27 (d, 1H, J=8.60 Hz), 7.18 (d, 1H, J=8.66 Hz), 7.05 (s, 2H, benzoyl Hs), 3.94 (s, 3H, OMe), 3.74 (s, 6H, 2×OMe), 3.73 (s, 3H, OMe).

reactant | 2-(1,2,4-triazol-1-yl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | N1(N=CN=C1)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C21H19N3O7
reactant | pyrrole | N1C=CC=C1 | C4H5N
product | 2-(1-pyrolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | N1(C=CC=C1)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C23H21NO7
